US04368069
2-(1-Cyclopentenyl)benzenesulfonyl Isocyanate
A solution of 2.5 g of 2-(1-cyclopentenyl)benzenesulfonamide in 20 ml of xylenes was contacted with 1.4 g of n-butylisocyanate and a trace amount (ca. 20 mg) of DABCO then heated to reflux of 139°. Liquified phosgene (1.2 ml) was then added thereby reducing the temperature and reflux continued until the boiling point of the mixture stopped rising towards the original 139° (ca. 15 min. required), which indicated a complete reaction. The solution was then evaporated under reduced pressure to yield an oil. The infrared spectrum exhibited the characteristic 2220 cm-1 band indicating the presence of the title compound which was used directly.

reactant | 2-(1-cyclopentenyl)benzenesulfonamide | 2.5 g | C1(=CCCC1)C1=C(C=CC=C1)S(=O)(=O)N | C11H13NO2S
reactant | n-butylisocyanate | 1.4 g | C(CCC)N=C=O | C5H9NO
reactant | DABCO | ca. 20 mg | C1CN2CCN1CC2 | C6H12N2
reactant | phosgene | 1.2 ml | C(=O)(Cl)Cl | CCl2O
product | 2-(1-Cyclopentenyl)benzenesulfonyl Isocyanate | C1(=CCCC1)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C12H11NO3S
